US07977344B2
2-[(2,2-Dimethylpentyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
To a solution of 2-[(2,2-dimethylpentyl)oxy]-8-methoxy-9H-purin-6-amine trifluoroacetic acid salt (252 mg) in dry DMF (3.97 mL) was added potassium carbonate (356 mg). The mixture was stirred at 60° C. for 90 mins. The reaction was cooled and 4-(bromomethyl)tetrahydro-2H-pyran (127 mg) was added. The mixture was stirred at 50° C. for 6 h. The reaction was cooled and taken up in EtOAc (40 mL). The mixture was washed with water (2×20 mL) and the organics were separated, dried over MgSO4 and concentrated in vacuo to give a viscous oil. The crude material was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (30-80%) to afford the title compound as an off-white solid (116 mg).

reactant | 2-[(2,2-dimethylpentyl)oxy]-8-methoxy-9H-purin-6-amine trifluoroacetic acid salt | 252 mg | FC(C(=O)O)(F)F.CC(COC1=NC(=C2N=C(NC2=N1)OC)N)(CCC)C
reactant | potassium carbonate | 356 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | 127 mg | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 3.97 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 2-[(2,2-Dimethylpentyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 116 mg | CC(COC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N)(CCC)C | C19H31N5O3
